### PR TITLE
feat: unbundled design for automata theory

### PR DESCRIPTION
**Pull request by ctchou**
This patch ports automata theory to an unbundled design, building on top of https://github.com/leanprover/cslib/pull/141.  The main changes are:
* Finite-ness assumptions are removed.  There are no more DFA, NFA, and EpsilonNFA.  In their stead, the theory works with DA, NA, and EpsilonNA directly.
* Acceptance conditions are separated out into the file Accept.lean and are made orthogonal to automata proper (DA and NA).
* Buchi and Muller acceptance conditions are introduced to illustrate the last point, though no theorems about them have been proved.
* All previous results in automata theory (the equivalence between DA and NA on finite words, the closure properties of regular languages under boolean operations, etc) are ported to the new design.

### CODE REVIEW

File: Cslib/Computability/Automata/Accept.lean [hunk 1]
```diff
@@ -0,0 +1,80 @@
...
+
+/-! # Acceptance conditions
+-/
+
+namespace Cslib
+
+open Set Filter ωSequence
+
+/-- Acceptance condition for finite words. -/
+structure Accept (State : Type*) (Symbol : Type*) where
```
Comment (chenson2018) [inline Cslib/Computability/Automata/Accept.lean]: As I mentioned on Zulip, if you do use `Type*`, consolidate adjacent binders and write:
```suggestion
structure Accept (State Symbol : Type*) where
```
there are several places this should be done in this diff. 

I did see your comment regarding grouping of state and symbol, and this is fine if say there were some typeclass variables between them that make sense to group together, but when it is just two adjacent single uses of `Type*` this defeats the purpose of the syntax.

File: Cslib/Computability/Automata/EpsilonNA.lean [hunk 2]
```diff
@@ -0,0 +1,69 @@
...
+ε-closure. -/
+def εNA (State : Type*) (Symbol : Type*) := NA State (Option Symbol)
+
+-- structure εNA (State : Type*) (Symbol : Type*) extends NA State (Option Symbol) where
+--   /-- The set of accepting states of the automaton. -/
+--   accept : Set State
+--   /-- The automaton is finite-state. -/
+--   finite_state : Finite State
+--   /-- The type of symbols (also called 'alphabet') is finite. -/
+--   finite_symbol : Finite Symbol
```
Comment (chenson2018) [inline Cslib/Computability/Automata/EpsilonNA.lean]: Some commented out code here.

File: Cslib/Computability/Automata/EpsilonNA.lean [hunk 3]
```diff
@@ -0,0 +1,69 @@
...
+/-- An εNA accepts a string if there is a saturated multistep accepting derivative with that trace
+from the start state. -/
+@[scoped grind]
+def accept (ena : εNA State Symbol) (acc : Set State) : Accept State Symbol where
+  Run xl s := ∃ s0 ∈ ena.εClosure ena.start, ena.saturate.MTr s0 (xl.map (some ·)) s
+  acc := acc
+
+-- def Accepts (ena : εNA State Symbol) (xs : List Symbol) :=
+--   ∃ s ∈ ena.εClosure ena.start, ∃ s' ∈ ena.accept,
+--   ena.saturate.MTr s (xs.map (some ·)) s'
```
Comment (chenson2018) [inline Cslib/Computability/Automata/EpsilonNA.lean]: Some commented out code here.

File: Cslib/Computability/Automata/EpsilonNA.lean [hunk 4]
```diff
@@ -0,0 +1,69 @@
...
+
+/-- The language of an εDA is the set of strings that it accepts. -/
+@[scoped grind =]
+def language (ena : εNA State Symbol) (acc : Set State) : Language Symbol :=
+  (ena.accept acc).language
+
+--   { xs | ena.Accepts xs }
```
Comment (chenson2018) [inline Cslib/Computability/Automata/EpsilonNA.lean]: Some commented out code here.

File: Cslib/Computability/Languages/OmegaRegularLanguage.lean [hunk 5]
```diff
@@ -0,0 +1,36 @@
...
+
+def IsRegular (p : ωLanguage Symbol) :=
+  ∃ State : Type, ∃ _ : Finite State, ∃ na : NA State Symbol, ∃ acc : Set State,
+  na.buchiLanguage acc = p
+
+-- /-- McNaughton's theorem, which will take a lot of work to reach. -/
+-- theorem IsRegular.iff_muller_lang {p : ωLanguage Symbol} :
+--     p.IsRegular ↔ ∃ State : Type, ∃ _ : Finite State,
+--       ∃ da : DA State Symbol, ∃ accSet : Set (Set State), da.mullerLanguage accSet = p := by
+--   sorry
```
Comment (chenson2018) [inline Cslib/Computability/Languages/OmegaRegularLanguage.lean]: You can use `proof_wanted` to state the signature of a theorem we'd like to prove later. (Grep Mathlib for examples)

File: Cslib/Computability/Languages/RegularLanguage.lean [hunk 6]
```diff
@@ -0,0 +1,131 @@
...
+      tr := dfa.step }
+    use State, Fintype.finite h_fin, da, dfa.accept
+    ext xl ; rw [Cslib.DA.mem_language] ; rfl
+  · rintro ⟨State, h_fin, da, acc, rfl⟩
+    let dfa : DFA Symbol State := {
+      start := da.start
+      step := da.tr
+      accept := acc }
+    use State, Fintype.ofFinite State, dfa
+    ext xl ; rw [Cslib.DA.mem_language] ; rfl
```
Comment (chenson2018) [inline Cslib/Computability/Languages/RegularLanguage.lean]: If you're already doing `rintro`, this could be golfed to:
```suggestion
  constructor
  · rintro ⟨State, h_fin, ⟨tr, start, accept⟩, rfl⟩
    use State, Fintype.finite h_fin, {start,tr}, accept
    ext xl ; rw [Cslib.DA.mem_language] ; rfl
  · rintro ⟨State, h_fin, ⟨start, step⟩, accept, rfl⟩
    use State, Fintype.ofFinite State, {start, step, accept}
    ext; rw [Cslib.DA.mem_language]; rfl
```

File: Cslib/Computability/Languages/RegularLanguage.lean [hunk 7]
```diff
@@ -0,0 +1,131 @@
...
+/-- A characterization of Language.IsRegular using Cslib.NA -/
+theorem IsRegular.iff_cslib_na {l : Language Symbol} :
+    l.IsRegular ↔ ∃ State : Type, ∃ _ : Finite State,
+      ∃ na : Cslib.NA State Symbol, ∃ acc : Set State, na.language acc = l := by
+  rw [IsRegular.iff_cslib_da] ; constructor
+  · rintro ⟨State, h_fin, da, acc, rfl⟩
+    use State, h_fin, da.toNA, acc
+    grind
+  · rintro ⟨State, _, na, acc, rfl⟩
+    use Set State, by infer_instance, na.toDA, { S | ∃ s ∈ S, s ∈ acc }
```
Comment (chenson2018) [inline Cslib/Computability/Languages/RegularLanguage.lean]: You can use `inferInstance` to infer an instance as a term, here and in several places below.
```suggestion
    use Set State, inferInstance, na.toDA, { S | ∃ s ∈ S, s ∈ acc }
```

File: Cslib/Computability/Languages/RegularLanguage.lean [hunk 8]
```diff
@@ -0,0 +1,131 @@
...
+
+-- From this point onward we will use only automata from Cslib in the proofs.
+open Cslib
+
+@[simp]
+theorem IsRegular.compl {l : Language Symbol} (h : l.IsRegular) : (lᶜ).IsRegular := by
+  rw [IsRegular.iff_cslib_da] at h ⊢
+  obtain ⟨State, _, da, acc, rfl⟩ := h
+  use State, by infer_instance, da, accᶜ
+  ext xl ; grind
```
Comment (chenson2018) [inline Cslib/Computability/Languages/RegularLanguage.lean]: You have several places where you provide an unused name to `ext`
```suggestion
  ext; grind
```

File: Cslib/Computability/Languages/RegularLanguage.lean [hunk 9]
```diff
@@ -0,0 +1,131 @@
...
+  ext xl ; grind [Language.mem_add]
+
+@[simp]
+theorem IsRegular.iInf {I : Type*} [Finite I] {s : Set I} {l : I → Language Symbol}
+    (h : ∀ i ∈ s, (l i).IsRegular) : (⨅ i ∈ s, l i).IsRegular := by
+  generalize h_n : s.ncard = n
+  induction n generalizing s
+  case zero =>
+    obtain ⟨rfl⟩ := (ncard_eq_zero (s := s)).mp h_n
+    simp
```
Comment (chenson2018) [inline Cslib/Computability/Languages/RegularLanguage.lean]:
```suggestion
  case zero => simp_all [ncard_eq_zero (s := s)]
```

**Review by chenson2018 — CHANGES_REQUESTED** [review]

File: Cslib/Computability/Automata/EpsilonNA.lean (hunk 2 above)
Comment (ctchou) [reply Cslib/Computability/Automata/EpsilonNA.lean]: Fixed.

File: Cslib/Computability/Automata/EpsilonNA.lean (hunk 3 above)
Comment (ctchou) [reply Cslib/Computability/Automata/EpsilonNA.lean]: Fixed.

File: Cslib/Computability/Automata/EpsilonNA.lean (hunk 4 above)
Comment (ctchou) [reply Cslib/Computability/Automata/EpsilonNA.lean]: Fixed.

File: Cslib/Computability/Languages/OmegaRegularLanguage.lean (hunk 5 above)
Comment (ctchou) [reply Cslib/Computability/Languages/OmegaRegularLanguage.lean]: Thanks!  Didn't know about that construct.

File: Cslib/Computability/Languages/RegularLanguage.lean (hunk 6 above)
Comment (ctchou) [reply Cslib/Computability/Languages/RegularLanguage.lean]: Fixed.

File: Cslib/Computability/Languages/RegularLanguage.lean (hunk 8 above)
Comment (ctchou) [reply Cslib/Computability/Languages/RegularLanguage.lean]: All fixed.

File: Cslib/Computability/Languages/RegularLanguage.lean (hunk 9 above)
Comment (ctchou) [reply Cslib/Computability/Languages/RegularLanguage.lean]: Fixed.

File: Cslib/Computability/Languages/RegularLanguage.lean (hunk 7 above)
Comment (ctchou) [reply Cslib/Computability/Languages/RegularLanguage.lean]: Fixed.

File: Cslib/Computability/Automata/Accept.lean (hunk 1 above)
Comment (ctchou) [reply Cslib/Computability/Automata/Accept.lean]: Fixed.

**Comment by ctchou** [comment]
Superseded by https://github.com/leanprover/cslib/pull/144.
